Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
syncope  
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with history of a single seizure at age ___, briefly on 
antiepileptics, who was standing and urinating today and 
"blacked out". Patient had no dizziness, chest pain, nausea, 
vision changes or any signs that he was going to pass out. Next 
thing he remembers is waking up on the floor. Went to ___ 
___ and they found his K=2.5 and Mg=1.8 and QTc of 506. Was 
given Mg, K and ativan and transferred to ___.  

In the ED: VS: 96.9 74 118/81 16 99% on RA. ECG:NSR with normal 
intervals. Repeat electrolytes were within normal limits. Urine 
tox negative, U/S with a few RBCs but no UTI. Neuro was 
consulted and said the event was unlikely to be a seizure.  

Upon arrival to the floor patient states no ETOH or drugs or 
laxatives, not similar to his previous seizure, no pain with 
urination, no nausea or vomiting or diarrhea. No recent illness. 
Has been under stress, but nothing particularly stressful prior 
to episode today. Reports his diet is mostly sandwiches, subs, 
not many vegtables or fruits.  

Of note, the patient is estranged from his father and he and his 
mother request that his father not be allowed to call or visit.  


Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations. Denies 
cough, shortness of breath, or wheezes. Denied nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. Denies arthralgias or 
myalgias. Denies rashes or skin breakdown. No numbness/tingling 
in extremities. All other review of systems negative.  
 
Past Medical History:
Seizure age ___, unknown cause-worked up at ___, 
was on a seizure medication for some time but only for 4 months  

Psoriasis on legs  
Depression  
 
Social History:
___
Family History:
HLD, HTN, no known FH of seizure  
 
Physical Exam:
Vitals: 97.1 126/86 70 18 98% on RA  
Gen: Well appearing, normal weight, NAD, AOX3  
HEENT: PERRLA, EOMI, MMM, sclera anicteric, not injected, no 
exudates  
Neck: no thyromegally,  
Cardiovascular: RRR normal s1, s2, no murmurs, rubs or gallops  
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi  
Abd: Soft, non-tender, non distended, no heptosplenomegally, 
bowel sounds present,  
Neurological: CN II-XII intact,  
Psychiatric: appropriate, pleasant, not anxious 
 
Pertinent Results:
Cardiology Report ECG Study Date of ___  7:53:46 AM 
Sinus rhythm. There is an RSR' pattern in lead V1 that is 
probably normal. 
Compared to the previous tracing there is no significant change. 

 

___ 05:45AM BLOOD WBC-11.5* RBC-5.17 Hgb-14.7 Hct-42.7 
MCV-83 MCH-28.4 MCHC-34.4 RDW-13.7 Plt ___
___ 04:35AM BLOOD WBC-7.5 RBC-4.89 Hgb-14.1 Hct-40.5 MCV-83 
MCH-28.8 MCHC-34.7 RDW-14.0 Plt ___
___ 01:50AM BLOOD Glucose-135* UreaN-9 Creat-0.6 Na-140 
K-4.1 Cl-107 HCO3-26 AnGap-11
___ 05:45AM BLOOD Glucose-108* UreaN-9 Creat-0.6 Na-141 
K-3.7 Cl-106 HCO3-27 AnGap-12
___ 04:35AM BLOOD Glucose-96 UreaN-6 Creat-0.6 Na-137 K-3.6 
Cl-103 HCO3-28 AnGap-10
___ 01:50AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.4
___ 05:45AM BLOOD Calcium-8.5 Phos-3.9 Mg-2.4
___ 04:35AM BLOOD Mg-2.0
___ 01:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 01:00AM URINE Hours-RANDOM Na-149 K-16 Cl-115
___ 01:00AM URINE ___ Bacteri-NONE Yeast-NONE 
___ 01:00AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 10:01AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with hx of depression and one 
seizure in the past who presented with micturition syncope and 
hypokalemia.

#Micturation Syncope - Given IVF. Seen in consultation by 
neurology who did felt that this presentation was not concerning 
for a seizure. EKG and telemetry did not reveal any evidency of 
arrhythmia. Recommended aggressive hydration and precautions 
when getting up to use the bathroom. 

# Hypokalemia - Unclear if spurious lab value as subsequent labs 
revealed normal serum postassium. Patient denied any 
diuretic/laxative use, diarrhea, or urinary symptoms. Did not 
have hypertension or metabolic alkalosis. Recommended repeat 
electrolyte panel soon after discharge. 

#Depression: Continued fluoxetine.  

#Psoriasis: Continued hydrocortisone cream.

 
Medications on Admission:
1. Sertraline 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Hydrocortisone 0.5 % Cream Sig: One (1) Appl Topical BID (2 
times a day) as needed for leg rash.  

 
Discharge Medications:
1. Sertraline 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Hydrocortisone 0.5 % Cream Sig: One (1) Appl Topical BID (2 
times a day) as needed for leg rash.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Postmictrition syncope
Hypokalemia
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after passing out while 
urinating. You were evaluated by neurology for evidence of 
seizure.  They did not feel that your episode was concerning for 
a seizure.  Most likely your episode was due to an entity called 
"postmictrition syncope" due to changes in your blood pressure 
and heart rate while using the bathroom. Please make sure that 
you remain adequately hydrated. 

You were found to have a low potassium level on your blood work. 
 Your potassium was repleted and your potassium normalized.  You 
were monitored for 24 hours without potassium repletion and the 
level remained normal.  You should try to eat food with 
potassium regularly such as bananas or orange juice.

Please have your blood work checked in ___ weeks at your primary 
care doctor's office to ensure your potassium level remains 
normal.

No changes were made to your medications.
 
Followup Instructions:
___